US08975254B2
b) 1-(5-(4-chloro-3-(trifluoromethyl)phenyl)furan-2-yl)propan-2-amine
(E)-2-(4-chloro-3-(trifluoromethyl)phenyl)-5-(2-nitroprop-1-enyl)furan (2.58 g, 7.78 mmol) was mixed with diethyl ether (54 ml) and toluene (25 ml) and added drop wise to a cooled (−20° C.) solution of lithium aluminium hydride (2.5 g, 65.9 mmol) in diethyl ether (11 ml). The mixture was allowed to warm up to 0° C. and stirred for 3 h and then at RT for additional 1 h stirring. Then the mixture was cooled again and 2.5 ml of water was added at −30° C. and then 2.5 ml of 15% aqueous NaOH solution. An additional 7.5 ml of water was added and the solution was allowed to warm to RT. MgSO4 was added and the mixture was stirred and filtered, precipitate was washed with toluene and diethyl ether and the filtrate was evaporated to dryness. After CombiFlash purification with DCM:MeOH as eluent system, the pooled fractions afforded 1.13 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.01 (d, 3H), 2.63 (m, 2H), 3.11-3.15 (m, 1H) 6.28 (d, 1H), 7.07 (d, 1H), 7.68 (d, 1H), 7.87 (m, 1H), 7.95 (m, 1H).

reactant | (E)-2-(4-chloro-3-(trifluoromethyl)phenyl)-5-(2-nitroprop-1-enyl)furan | 7.78 mmol, 2.58 g | ClC1=C(C=C(C=C1)C=1OC(=CC1)\C=C(/C)\[N+](=O)[O-])C(F)(F)F | C14H9ClF3NO3
reactant | lithium aluminium hydride | 65.9 mmol, 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2.5 ml | [OH-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | diethyl ether | 11 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 54 ml | C(C)OCC | C4H10O
solvent | water | 7.5 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-(4-chloro-3-(trifluoromethyl)phenyl)furan-2-yl)propan-2-amine | 1.13 g | ClC1=C(C=C(C=C1)C1=CC=C(O1)CC(C)N)C(F)(F)F | C14H13ClF3NO
